US05925627
Z-(2S,3R)-1-tert-Butoxycarbonyl-3-(3-hydroxyprop-1-en-1-yl)-2-phenylpiperidin-3-ol
Palladium on calcium carbonate, poisoned with lead (Lindlar catalyst, 2 g) was added to a solution of (2S,3R)-1-tert-butoxycarbonyl-3-(3-hydroxypropyn-1yl)-2-phenylpiperidin-3-ol (Preparation 7; 32 g, 96.6 mmol) in ethyl acetate (300 ml) and the mixture was stirred under hydrogen (1 atmosphere) for 4 hours. The mixture was filtered and the solvent was evaporated under reduced pressure to give the title compound as an oil (32 g, 100%). 1H NMR (360 MHz, CDCl3) δ 7.42 (2H, d, J=7.6 Hz), 7.35-7.25 (3H, m), 5.83 (1H, d, J12.3 Hz), 5.68 (1H, dt, J=12.3, 6.0 Hz), 5.06 (1H, s), 4.27 (1H, m), 4.12 (2H, m), 3.32 (1H, m), 3.13 (1H, s), 2.28 (1H, t, J=5.9 Hz), 2.02 (1H, m), 1.92-1.78 (3H, m), and 1.32 (9H, s). m/z (ES+) 334 (M+1).

reactant | (2S,3R)-1-tert-butoxycarbonyl-3-(3-hydroxypropyn-1yl)-2-phenylpiperidin-3-ol | 96.6 mmol, 32 g | C(C)(C)(C)OC(=O)N1[C@H]([C@](CCC1)(O)C#CCO)C1=CC=CC=C1 | C19H25NO4
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on calcium carbonate | [Pd] | Pd
product | Z-(2S,3R)-1-tert-Butoxycarbonyl-3-(3-hydroxyprop-1-en-1-yl)-2-phenylpiperidin-3-ol | 32 g, 100% | C(C)(C)(C)OC(=O)N1[C@H]([C@](CCC1)(O)\C=C/CO)C1=CC=CC=C1 | C19H27NO4
